US07576063B2
1-Isopropyl-5-(4-methoxyphenyl)-4-[(4-methoxyphenyl)-methyl]-1,2-dihydro-3H-pyrazole-3-on
To a solution of [3-benzyloxy-1-isopropyl-5-(4-methoxyphenyl)-1H-pyrazol-4-yl]4-methoxy-phenyl methanol (0.11 g) in ethanol (4 mL) was added a catalytic amount of 10% palladium-carbon powder and the mixture was stirred at room temperature under a hydrogen atmosphere overnight. Dichloromethane was added to the mixture and the insoluble material was removed by filtration. The solvent of filtrate was removed under reduced pressure to give the title compound (0.076 g).

reactant | [3-benzyloxy-1-isopropyl-5-(4-methoxyphenyl)-1H-pyrazol-4-yl]4-methoxy-phenyl methanol | 0.11 g | C(C1=CC=CC=C1)OC1=NN(C(=C1C(O)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)C(C)C | C28H30N2O4
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 4 mL | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | 1-Isopropyl-5-(4-methoxyphenyl)-4-[(4-methoxyphenyl)-methyl]-1,2-dihydro-3H-pyrazole-3-on | 0.076 g | C(C)(C)N1NC(C(=C1C1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O | C21H24N2O3
